US09029545B2
Ethyl 2-bromo-4-{[(3-chlorophenyl)sulfonyl]amino}-6-methylthieno[2,3-b]pyridine-5-carboxylate
To a stirred solution of ethyl 4-amino-2-bromo-6-methylthieno[2,3-b]pyridine-5-carboxylate (Description 66) (390 mg, 1.24 mmol) in THF (12 mL) was added sodium tert-butoxide (297 mg, 3.09 mmol) and 3-chlorobenzenesulfonyl chloride (0.35 mL, 2.47 mmol). The reaction mixture was stirred at RT under nitrogen for ca. 3 h. The reaction mixture was diluted with ethyl acetate (ca. 30 mL) and water (ca. 50 mL). The organic layer was separated and the aqueous layer re-extracted with ethyl acetate (ca. 30 mL×2). The combined organic phase was dried over Na2SO4 and then concentrated in vacuo. Purification by chromatography on silica, eluting with a gradient of 0-20% ethyl acetate in DCM, afforded the title compound (252 mg). LCMS (A) m/z: 490/492 [M+1]+, Rt 1.48 min (acidic).

reactant | ethyl 4-amino-2-bromo-6-methylthieno[2,3-b]pyridine-5-carboxylate | 1.24 mmol, 390 mg | NC1=C2C(=NC(=C1C(=O)OCC)C)SC(=C2)Br | C11H11BrN2O2S
reactant | sodium tert-butoxide | 3.09 mmol, 297 mg | CC(C)([O-])C.[Na+]
reactant | 3-chlorobenzenesulfonyl chloride | 2.47 mmol, 0.35 mL | ClC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | ca. 30 mL | C(C)(=O)OCC | C4H8O2
solvent | water | ca. 50 mL | O | H2O
product | Ethyl 2-bromo-4-{[(3-chlorophenyl)sulfonyl]amino}-6-methylthieno[2,3-b]pyridine-5-carboxylate | 252 mg | BrC1=CC=2C(=NC(=C(C2NS(=O)(=O)C2=CC(=CC=C2)Cl)C(=O)OCC)C)S1 | C17H14BrClN2O4S2
